US04269788
46.1 g. of biphenyl in 400 ml. of absolute ether are added at about -33° C. while stirring to 600 ml. of dry, condensed ammonia. 4.2 g. of lithium wire (about 2 cm long pieces, de-greased with cyclohexane) are then added at about -50° C. within 15 minutes. The mixture is held at boiling temperature for 2 hours. It is then cooled to about -70° C. and 15.8 g. of racemic 2-chloro-N,N,1-trimethylethylamine hydrochloride are added portionwise over a period of 10 minutes. The mixture is again warmed to boiling temperature (about -33° C.) and stirred at this temperature for 2 hours. 32 g. of ammonium chloride are then added and the ammonia is distilled off. Subsequently, the mixture is worked-up aqueous: the ether solution is washed with water. The aqueous phase is adjusted to a pH greater than 12 with sodium hydroxide solution and extracted further twice with ether. The ether phases are combined and extracted twice with 2 N aqueous hydrochloric acid. The acid extracts are again made alkaline and extracted with ether. The ether phases are dried, filtered and concentrated. There is obtained an oily product which, after chromatography on a 20-fold amount of silica gel using methylene chloride/methanol (10:1) as the solvent, yields α,N,N-trimethyl-1-phenyl-2,5-cyclohexadien-1-ethylamine. This product is dissolved in ether and converted with hydrogen chloride into the hydrochloride which is recrystallized from methylene chloride/ether. The product has a melting point of 158°-159° C.

reactant | biphenyl | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
reactant | lithium | [Li] | Li
reactant | racemic 2-chloro-N,N,1-trimethylethylamine hydrochloride | Cl.ClCC(C)N(C)C
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methylene chloride methanol | C(Cl)Cl.CO
solvent | ether | CCOCC | C4H10O
product | α,N,N-trimethyl-1-phenyl-2,5-cyclohexadien-1-ethylamine | CC(CC1(C=CCC=C1)C1=CC=CC=C1)N(C)C | C17H23N
